US08003692B2
3-Phenylcyclohex-2-enone (FI-4).
A microwave vial was charged with a stir bar, 3-bromocyclohex-2-enone (65 mg, 1 equiv., 0.37 mmol), phenyl boronic acid (55 mg, 1.2 equiv., 0.45 mmol) and ethanol (4 mL). To the solution was added 1M K2CO3 (1.2 equiv., 0.45 mmol) followed by the addition of the polymer supported palladium FC 1001 (27 mg, 3 mol % Pd) catalyst. The reaction was subjected to the following microwave conditions: Power 250 W, Temperature 110° C., ramp time 1:00 min, time holds 5 min, Power Max on (continuous air cooling). The reaction was then cooled to room temperature and filtered through a plug of celite eluding with ethyl acetate. The solvent was evaporated on a rotary evaporator. The residue was diluted in methylene chloride and washed with brine. The organic layers were dried over MgSO4 and the residue was purified by automated silica gel chromatography using gradient elution (0 to 20% ethyl acetate/hexanes) affording the desired product as a white solid (48 mg, 75% yield). 1H NMR (300 MHz, CDCl3): δ 7.50-7.53 (m, 2H), 7.36-7.41 (m, 3H), 6.40 (t, J=1.4 Hz, 1H), 2.76 (td, J=6.9, 1.2 Hz, 2H), 2.48 (t, J=6.9 Hz, 2H), 2.14 (quintet, J=6.9 Hz, 2H). 13C (75 MHz, CDCl3): 199.6, 159.6, 138.6, 129.8, 128.6, 125.9, 125.3, 37.3, 28.1, 22.9. LCMS (ESI): mass calcd for (C12H12O) m/z 172.09; measured [M+H]+: m/z 173.17.

reactant | 3-bromocyclohex-2-enone | 0.37 mmol, 65 mg, 1 equiv. | BrC1=CC(CCC1)=O | C6H7BrO
reactant | phenyl boronic acid | 0.45 mmol, 55 mg, 1.2 equiv. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 0.45 mmol, 1M, 1.2 equiv. | C(=O)([O-])[O-].[K+].[K+]
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-Phenylcyclohex-2-enone | 48 mg, 75% yield | C1(=CC=CC=C1)C1=CC(CCC1)=O | C12H12O
